US08242260B2
This material was prepared according to the procedure used for SM-9, step 2 using 1-bromo-2,5-dichloro-3-nitrobenzene. Purification by flash chromatography (SiO2, 0-30% EtOAc in heptane) provided 3-bromo-2,5-dichloroaniline (24%): LCMS(m/z) 239.9 (MH+), tR=1.03 minutes; 1H NMR (400 MHz, CDCl3) δ 4.28 (br s, 2H) 6.71 (d, J=2.4 Hz, 1H) 7.02 (d, J=2.4 Hz, 1H).

reactant | 2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | ClC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C12H17BClNO2
reactant | 1-bromo-2,5-dichloro-3-nitrobenzene | BrC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])Cl | C6H2BrCl2NO2
product | 3-bromo-2,5-dichloroaniline | 24% | BrC=1C(=C(N)C=C(C1)Cl)Cl | C6H4BrCl2N
